US06825190B2
N-phenylguanidine
Aniline (30 mmol, 1 equiv.), cyanamide (1.3 g, 31 mmol, 1.03 equiv.), and 4N hydrogen chloride in dioxane (8 mL, 32 mmol) was stirred for 10 minutes at room temperature and heated to 80° C. for 18 hours. The mixture was diluted with water (30 mL) and diethyl ether (50 mL). The aqueous layer was washed with ether (30 mL) and the organic layers were discarded. The aqueous layer was neutralized with 6N aqueous HCl (6 mL) and diluted with ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL) four times. The combined organic layers were concentrated under reduced pressure to afford a solid compound. The solid was washed with diethyl ether (30 mL) to provide pale yellow title compound. The compound was characterized by LC/MS and HPLC.

reactant | Aniline | 30 mmol, 1 equiv. | NC1=CC=CC=C1 | C6H7N
reactant | cyanamide | 31 mmol, 1.3 g, 1.03 equiv. | N#CN | CH2N2
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 32 mmol, 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | N-phenylguanidine | C1(=CC=CC=C1)NC(=N)N | C7H9N3
